US07709471B2
4-amino-3-methoxy-N-[(1R,5S)-9-methyl-3-oxa-9-azabicyclo[3.3.1]non-7-yl]benzamide
N-Ethyldiisopropylamine (0.119 mL, 0.68 mmol) was added to 4-amino-3-methoxybenzoic acid (Aldrich; 114 mg, 0.68 mmol), (1R,5S,7s)-9-methyl-3-oxa-9-azabicyclo[3.3.1]nonan-7-amine (Bioorganic & Medicinal Chemistry Letters (1992), 2(6), 519-22, 107 mg, 0.68 mmol) and HATU (260 mg, 0.68 mmol) in DMF (5 mL) at 25° C. The resulting solution was stirred at ambient temperature for 6 hours. The DMF was evaporated to give a brown gum as residue, which was purified by ion exchange chromatography, using an SCX-2 (5 g) column pre-wet with methanol. The desired product was eluted from the column using 2M NH3/MeOH and purified fractions were evaporated to dryness to afford a brown gum which was purified by flash silica chromatography, elution gradient 0 to 100% 5% MeOH/DCM in DCM. Pure fractions were combined and evaporated to dryness to afford the title compound as a beige coloured gum (205 mg, 98%).

reactant | N-Ethyldiisopropylamine | 0.68 mmol, 0.119 mL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 4-amino-3-methoxybenzoic acid | 0.68 mmol, 114 mg | NC1=C(C=C(C(=O)O)C=C1)OC | C8H9NO3
reactant | HATU | 0.68 mmol, 260 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 4-amino-3-methoxy-N-[(1R,5S)-9-methyl-3-oxa-9-azabicyclo[3.3.1]non-7-yl]benzamide | 205 mg, 98% | NC1=C(C=C(C(=O)NC2C[C@H]3COC[C@@H](C2)N3C)C=C1)OC | C16H23N3O3
